US09376420B2
Step 1: 4-(4-bromo-phenyl)-2-oxo-3-butenoic acid potassium salt
To a mixture of 4-bromobenzaldehyde (35.0 g, 189.0 mmol) and pyruvic acid (15.8 mL, 227.0 mmol) in methanol (100.0 mL), was slowly added a solution of potassium hydroxide (19.0 g, 340.0 mmol) in methanol (100.0 mL) at 0° C. The reaction mixture was stirred at room temperature for 16 hours and then filtered. The resulting solid was washed with diethyl ether to give 48.0 g of the titled compound as a pale yellow solid.

reactant | 4-bromobenzaldehyde | 189.0 mmol, 35.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | pyruvic acid | 227.0 mmol, 15.8 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | potassium hydroxide | 340.0 mmol, 19.0 g | [OH-].[K+]
solvent | methanol | 100.0 mL | CO | CH4O
solvent | methanol | 100.0 mL | CO | CH4O
product | 4-(4-bromo-phenyl)-2-oxo-3-butenoic acid potassium salt | 48.0 g | [K+].BrC1=CC=C(C=C1)C=CC(C(=O)[O-])=O | InChI=1S/C10H7BrO3.K/c11-8-4-1-7(2-5-8)3-6-9(12)10(13)14;/h1-6H,(H,13,14);/q;+1/p-1
